US04006136
1,3-Decadien-5-one
To a solution of Grignard reagent prepared from vinyl bromide (10.7 g), and magnesium (2.43 g) in dry tetrahydrofuran (40ml) is added gradually a solution of 1-(dimethylamino)-1-octen-3-one (16.9 g), described in Example 37, in dry tetrahydrofuran (20 ml). The mixture is stirred and heated to reflux for 1 hr. The reaction mixture is cooled to room temperature, diluted with ether, washed with hydrochloric acid (10 ml), followed by saturated ammonium chloride solution. The ether extract is dried, and the solvent is removed. The residue is chromatographed to yield the title compound, λmaxEtOH 260nm(ε = 17,050), γmaxfilm 1686, 1668 cm-1.

reactant | vinyl bromide | 10.7 g | C(=C)Br | C2H3Br
reactant | magnesium | 2.43 g | [Mg] | Mg
reactant | 1-(dimethylamino)-1-octen-3-one | 16.9 g | CN(C=CC(CCCCC)=O)C | C10H19NO
solvent | tetrahydrofuran | 40ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1,3-Decadien-5-one | C=CC=CC(CCCCC)=O | C10H16O
